US04656182
B. Preparation of trans-N-methyl-N-[2-(1-pyrrolidinyl)cyclohexyl]-1H-indole-3-acetamide monohydrochloride
Trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine (0.368 g) was dissolved in methylene chloride (10 ml) and stirred at room temperature. The acid chloride of 3-indole acetic acid (prepared by the action of thionyl chloride on 3-indole acetic acid, 0.35 g) dissolved in methylene chloride (10 ml) was added and let stand for five hours. Ether was added to rapidly stirred solution until no more precipitate appeared. After further rapid stirring for one hour, the precipitate was filtered and dried in a vacuum oven at 90° C. for one hour and stored in a predried bottle. The product was in the form of a black glassy solid (300 mg).

reactant | Trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine | 0.368 g | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
reactant | 3-indole acetic acid | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | Ether | CCOCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-N-methyl-N-[2-(1-pyrrolidinyl)cyclohexyl]-1H-indole-3-acetamide monohydrochloride | Cl.CN(C(CC1=CNC2=CC=CC=C12)=O)[C@H]1[C@@H](CCCC1)N1CCCC1 | InChI=1S/C21H29N3O.ClH/c1-23(19-10-4-5-11-20(19)24-12-6-7-13-24)21(25)14-16-15-22-18-9-3-2-8-17(16)18;/h2-3,8-9,15,19-20,22H,4-7,10-14H2,1H3;1H/t19-,20-;/m1./s1
